US06552008B1
b) 4-(4-Diazo-3-methyl-5-oxo-2-pyrazolin-1-yl)benzoic Acid
A solution of 4-(3-methyl-5-oxo-2-pyrazolin-1-yl)benzoic acid (5.0 g, 0.023 mol) and p-toluenesulfonylazide (5.03 g, 0.026 mol) in methanol (30.0 mL) was treated with triethylamine (5.2 g; 0.051 mol.) and the reaction was stirred at room temperature for 5 hours.

reactant | 4-(3-methyl-5-oxo-2-pyrazolin-1-yl)benzoic acid | 0.023 mol, 5.0 g | CC1=NN(C(C1)=O)C1=CC=C(C(=O)O)C=C1 | C11H10N2O3
reactant | p-toluenesulfonylazide | 0.026 mol, 5.03 g | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | triethylamine | 0.051 mol, 5.2 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 30.0 mL | CO | CH4O
product | 4-(4-Diazo-3-methyl-5-oxo-2-pyrazolin-1-yl)benzoic Acid | [N+](=[N-])=C1C(=NN(C1=O)C1=CC=C(C(=O)O)C=C1)C | C11H8N4O3
